US04675320
A stirred mixture of 5 g. (0.015 mole) of 5-bromomethyl-2-nitro-3-phenylbenzofuran and 7.5 g. (0.075 mole) of N-methylpiperazine in 15 ml. of ethanol is heated at 45° C. for 1 hour. The reaction mixture is evaporated to provide a residue which is extracted with diethyl ether. The ether extracts are washed with water and with a saturated sodium chloride solution and dried. Evaporation of the ether solution provides a yellow oil which is dissolved in diethyl ether and treated while stirring with a solution of 4N hydrochloric acid in isopropanol until the reaction is complete. The solid is stirred in hot ethanol while adding water until it is all in solution. Cooling provides a fluffy yellow product, 1-methyl-4-(2-nitro-3-phenyl-5-benzofuranylmethyl)piperazine dihydrochloride dihydrate, m.p. 269°-276° C. (dec.), having the structure

reactant | 5-bromomethyl-2-nitro-3-phenylbenzofuran | 0.015 mole | BrCC=1C=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C1 | C15H10BrNO3
reactant | N-methylpiperazine | 0.075 mole | CN1CCNCC1 | C5H12N2
reactant | hydrochloric acid | 4N | Cl | ClH
reactant | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | ethanol | C(C)O | C2H6O
product | 1-methyl-4-(2-nitro-3-phenyl-5-benzofuranylmethyl)piperazine dihydrochloride dihydrate | O.O.Cl.Cl.CN1CCN(CC1)CC=1C=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C1 | InChI=1S/C20H21N3O3.2ClH.2H2O/c1-21-9-11-22(12-10-21)14-15-7-8-18-17(13-15)19(20(26-18)23(24)25)16-5-3-2-4-6-16;;;;/h2-8,13H,9-12,14H2,1H3;2*1H;2*1H2
